US08471005B2
741b) 4-(4-Amino-3-methoxy-phenyl)-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester
1-(4-Bromo-2-methoxy-phenyl)-2,2,5,5-tetramethyl-[1,2,5]azadisilolidine (250 mg, 1.0 equiv) was dissolved in anhydrous THF (4 ml) under an argon atmosphere. A 1M suspension of magnesium in THF (0.941 ml, 1.33 equiv) was added dropwise at room temperature, and the mixture was stirred for 2 hours. It was then transferred via cannula to a room temperature solution of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester (145 mg, 1.0 equiv), and the mixture was heated to reflux 2 hours. Cooled to room temperature and quenched with water. Partitioned between EtOAc/water. Dried over sodium sulfate and concentrated. Purified by preparative TLC, 40% EtOAc/hexane. Obtained 4-(4-amino-3-methoxy-phenyl)-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester as a purple foam, 52 mg. LCMS (E/I+) 323 (M+H). NMR 1H (CDCl3) 6.95 (s, 1H), 6.83 (d, J=5.82 Hz, 1H), 6.62 (d, J=5.73 Hz, 1H), 3.92-4.05 (m, 2H), 3.88 (s, 3H), 3.17-3.30 (m, 2H), 1.89-2.10 (m, 2H), 1.68-1.74 (m, 2H), 1.46 (s, 9H), 1.23 (s, 1H).

reactant | 1-(4-Bromo-2-methoxy-phenyl)-2,2,5,5-tetramethyl-[1,2,5]azadisilolidine | 250 mg, 1.0 equiv | BrC1=CC(=C(C=C1)N1[Si](CC[Si]1(C)C)(C)C)OC | C13H22BrNOSi2
reactant | magnesium | [Mg] | Mg
reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 145 mg, 1.0 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 0.941 ml, 1.33 equiv | C1CCOC1 | C4H8O
product | 4-(4-Amino-3-methoxy-phenyl)-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=CC(=C(C=C1)N)OC | C17H26N2O4
